US05994354
A mixture of 3-phenylmethyleneamino-5-(3-hydroxy) propyl-2-oxazolidinone (10.88 g, 0.0438 mole) CHCl3 (200 ml), and pyridine (4.25 ml, 4.16 g, 0.0526 mole, 1.2 eq.) is stirred at ambient temperature. Thionyl chloride (11.2 ml, 18.2 g, 0.1533 mole, 3.5 eq.) is added dropwise over 30-45 minutes while at ambient temperature (slight exotherm observed). After complete addition, the solution is heated to reflux. Reflux is maintained for 2 hours. After cooling, the solution is concentrated under reduced pressure to a solid residue, which is azeotroped with toluene (2×50 ml). The solid is dissolved in CH2Cl2 (250 ml), then washed with H2O (3×100 ml). The CH2Cl2 is dried over MgSO4, filtered, then concentrated under reduced pressure to give 5-(3-chloropropyl)-3-phenylmethyleneamino-2-oxazolidinone (11.2 g, 0.0420 mole) as a solid residue.

reactant | 3-phenylmethyleneamino-5-(3-hydroxy) propyl-2-oxazolidinone | 0.0438 mole, 200 ml, 10.88 g | C1(=CC=CC=C1)C=NN1C(OC(C1)CCCO)=O | C13H16N2O3
reactant | pyridine | 0.0526 mole, 4.25 ml, 4.16 g, 1.2 eq. | N1=CC=CC=C1 | C5H5N
reactant | Thionyl chloride | 0.1533 mole, 11.2 ml, 18.2 g, 3.5 eq. | S(=O)(Cl)Cl | Cl2OS
product | 5-(3-chloropropyl)-3-phenylmethyleneamino-2-oxazolidinone | 0.0420 mole, 11.2 g | ClCCCC1CN(C(O1)=O)N=CC1=CC=CC=C1 | C13H15ClN2O2
